US05767282
A pure sample of tertbutyl 3(R)-benzoylamino-2(S)-hydroxy-3-phenylthiopropionate was obtained via the same reaction sequence, but using the boron reagent di{[(1S,2S,5R)-2-isopropyl-5-methylcyclohex-1-yl]-methyl}boron bromide, derived from (-)menthone. Compound tertbutyl 3(R)-benzoylamino-2(S)-hydroxy-3-phenylthiopropionate was treated with excess (S)-(-)-α-methoxy-α-(trifluoromethyl) phenylacetic acid in dichloromethane in the presence of 1,3-dicyclohexylcarbodiimide (DCC) and catalytic 4-dimethylaminopyridine (DMAP). The Mosher derivative tertbutyl 3(R)-benzoylamino-2(S)-O-[(S)-α-methoxy-α-trifluoromethyl)phenyl]acetyl-3-phenylthiopropionate was obtained:

reactant | boron | [B] | B
reactant | (-)menthone | C[C@@H]1CC[C@H](C(=O)C1)C(C)C | C10H18O
reactant | tertbutyl 3(R)-benzoylamino-2(S)-hydroxy-3-phenylthiopropionate | C(C1=CC=CC=C1)(=O)N[C@@H]([C@@H](C(=S)OC(C)(C)C)O)C1=CC=CC=C1 | C20H23NO3S
reactant | (S)-(-)-α-methoxy-α-(trifluoromethyl) phenylacetic acid | CO[C@@](C(=O)O)(C(F)(F)F)C1=CC=CC=C1 | C10H9F3O3
reactant | 1,3-dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | acetyl-3-phenylthiopropionate | C(C)(=O)OC(CCC1=CC=CC=C1)=S | C11H12O2S
